US04199517
Cumylphenyl 2-ethylhexanoate was prepared in accordance with the following procedure: a 2-liter flask equipped with a mechanical agitator, a ten theoretical plate fractionating column, an automatic reflux splitter pot, vapor thermo-controllers, a condenser, receivers, and external heating and cooling devices, was charged with 2 moles of cumylphenyl acetate, 5 moles of 2-ethylhexanoic acid and 5 grams of 98% sulfuric acid. Heat was supplied externally and the distillate was collected at a 20:1 reflux ratio at a vapor temperature below 120° C. at atmospheric pressure. A total of 64 cc of distillate was collected in 24 hours. The residual pot contents were cooled to ambient temperature and extracted 5 times with 2 l. of 8% sodium bicarbonate dried over anhydrous Na2SO4 and fractionated to give 408 g. (58 mole %) of a pale yellowish oil. The oil had a boiling point at 0.2 mm Hg of 252°-257° C., a specific gravity 20/20 of 1.045 and a saponification value of 2.82 meq/g. The cumylphenyl 2-ethylhexanoate ester has a theoretical saponification value of 2.85 meq/g.

reactant | cumylphenyl acetate | 2 moles | C(C)(=O)OC1=C(C=CC=C1)C(C)(C)C1=CC=CC=C1 | C17H18O2
reactant | 2-ethylhexanoic acid | 5 moles | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | sulfuric acid | 5 grams | S(O)(O)(=O)=O | H2O4S
product | Cumylphenyl 2-ethylhexanoate | C(C)C(C(=O)OC1=C(C=CC=C1)C(C)(C)C1=CC=CC=C1)CCCC | C23H30O2
